US07405300B2
2-Chloro-1-(4-fluorophenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 and subsequently treated with hydrochloric acid as described in Example 44 to afford 1-(4-fluorophenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride (40% yield) as a cream solid. ESI/MS 324 (M+H); RT 2.44 min; NMR 10.15 (1H, s); 8.13 (1H, d, J=9 Hz); 7.71 (2H, m); 7.54 (2H, m); 7.23 (2H, m); 6.95 (1H, d, J=9 Hz); 3.33 (4H, br s); 2.95 (4H, br s).

reactant | 2-Chloro-1-(4-fluorophenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)F | C15H9ClFNO
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-fluorophenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde hydrochloride | 40% yield | Cl.FC1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | InChI=1S/C19H18FN3O.ClH/c20-14-5-7-15(8-6-14)23-18-4-2-1-3-16(18)17(13-24)19(23)22-11-9-21-10-12-22;/h1-8,13,21H,9-12H2;1H
